US04804661
A solution of 11.1 g of 2,6-dimethylbenzoyl chloride in 50 ml of methylene chloride is added dropwise, over a period of 10 minutes, to a solution, stirred at room temperature, of 13.5 g of 1-[2-(4-chlorophenyl)-ethyl]-piperazine in 100 ml of methylene chloride. The reaction mixture is stirred overnight at room temperature. The suspension is filtered with suction and washed with ice-cold methylene chloride and finally with ether, dried and characterised in the form of the hydrochloride which has a melting point of 259°-261°. 1-[2-(4-chlorophenyl)-ethyl]-4-(2,6-dimethylbenzoyl)-piperazine hydrochloride is thus obtained.

reactant | 2,6-dimethylbenzoyl chloride | 11.1 g | CC1=C(C(=O)Cl)C(=CC=C1)C | C9H9ClO
reactant | 1-[2-(4-chlorophenyl)-ethyl]-piperazine | 13.5 g | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(4-chlorophenyl)-ethyl]-4-(2,6-dimethylbenzoyl)-piperazine hydrochloride | Cl.ClC1=CC=C(C=C1)CCN1CCN(CC1)C(C1=C(C=CC=C1C)C)=O | InChI=1S/C21H25ClN2O.ClH/c1-16-4-3-5-17(2)20(16)21(25)24-14-12-23(13-15-24)11-10-18-6-8-19(22)9-7-18;/h3-9H,10-15H2,1-2H3;1H
